US09145372B2
To a solution of 2-(2-(3,5-diphenylpyridazin-4-yl)oxazol-4-yl)propan-2-ol (80 mg, 0.22 mmol) in toluene (4 mL), p-toluenesulfonic acid (20 mg) was added and the reaction mixture was refluxed for 2 h. After completion of starting material, reaction was quenched with solid K2CO3. Solvent was removed under reduced pressure to obtain the crude product that was purified by column chromatography (100-200 mesh silica gel, 20% EtOAc-Hexane) to furnish 2-(3, 5-diphenylpyridazin-4-yl)-4-vinyloxazole (70 mg, 92%) as a gummy liquid.

reactant | 2-(2-(3,5-diphenylpyridazin-4-yl)oxazol-4-yl)propan-2-ol | 0.22 mmol, 80 mg | C1(=CC=CC=C1)C=1N=NC=C(C1C=1OC=C(N1)C(C)(C)O)C1=CC=CC=C1 | C22H19N3O2
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3, 5-diphenylpyridazin-4-yl)-4-vinyloxazole | 70 mg, 92% | C1(=CC=CC=C1)C=1N=NC=C(C1C=1OC=C(N1)C=C)C1=CC=CC=C1 | C21H15N3O
